US07087599B2
A solution of (9SR,9aSR)-7-methoxy-4-methyl-9-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (38.3 mg, 0.142 mmol) in anhydrous CH2Cl2 (1.1 mL) was placed under a nitrogen atmosphere, cooled in a dry ice-acetone bath, and stirred while 1M BBr3 in CH2Cl2 (0.354 mL, 0.345 mmol) was added by syringe. The cooling bath was removed and the reaction mixture was stirred at room temperature for 2.6 hours, then diluted with 0.2N HCl (5 mL) and EtOAc (10 mL) and shaken. The organic phase was separated, washed with brine, dried over MgSO4, filtered, and evaporated under vacuum to a solid (35.2 mg). The crude product was purified by flash chromatography on EM silica gel 60 (230-400 mesh, 1×18 cm column) using 3:1 hexanes-EtOAc as eluting solvent, collecting 3 mL fractions. Fractions 12-26 were combined and concentrated under vacuum to approximately 1 mL of a suspension. The suspension was filtered and the solid portion washed with EtOAc and dried under vacuum to afford (9SR,9aSR)-7-hydroxy-4-methyl-9-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one.

reactant | (9SR,9aSR)-7-methoxy-4-methyl-9-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.142 mmol, 38.3 mg | COC1=CC=C2C3=C(C(CCC3C(C2=C1)CCC)=O)C | C18H22O2
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 1.1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.345 mmol, 0.354 mL | C(Cl)Cl | CH2Cl2
product | (9SR,9aSR)-7-hydroxy-4-methyl-9-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | OC1=CC=C2C3=C(C(CCC3C(C2=C1)CCC)=O)C | C17H20O2
